US07309701B2
Working as in example 19 for the preparation of ethyl 6-[4-(benzyloxy)phenyl]-3-oxo-2,3-dihydropyridazine-4-carboxylate, but starting with 8.85 g of diethyl hydroxy(pyridin-3-oxoethyl)malonate, 3.67 g of hydrazine dihydrochloride and 250 cm3 of ethanol, and after recrystallization from ethanol, 3.6 g of ethyl 6-pyridin-3-yl-3-oxo-2,3-dihydropyridazine-4-carboxylate were obtained in the form of a green solid melting at a temperature in the region of 150° C.

reactant | ethyl 6-[4-(benzyloxy)phenyl]-3-oxo-2,3-dihydropyridazine-4-carboxylate | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1C=C(C(NN1)=O)C(=O)OCC | C20H18N2O4
reactant | hydrazine dihydrochloride | 3.67 g | Cl.Cl.NN
solvent | ethanol | 250 cm3 | C(C)O | C2H6O
product | ethyl 6-pyridin-3-yl-3-oxo-2,3-dihydropyridazine-4-carboxylate | 3.6 g | N1=CC(=CC=C1)C=1C=C(C(NN1)=O)C(=O)OCC | C12H11N3O3
